US07414134B2
Step (iii): Synthesis of (R)-5-(4-((R)-3-amino-2-(4-methylphenylsulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid (72)
(R)-Methyl 5-(4-((R)-3-amino-2-(4-methylbenzenesulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylate (0.2 g, 0.41 mmol) and 1N LiOH (1.9 mL, 1.9 mmol) in 5 mL THF was stirred for 16 h at RT. The reaction mixture was concentrated, taken up in H2O, and acidified with 10% HCl. A precipitate had formed, that was filtered and air-dried to afford the title compound. MS (m/z): 484.4 (m+H).

reactant | (R)-Methyl 5-(4-((R)-3-amino-2-(4-methylbenzenesulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 0.41 mmol, 0.2 g | NC([C@@H](CC=1N=NN(C1)[C@H]1C=2C=CC(=CC2CCC1)C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C24H27N5O5S
reactant | LiOH | 1.9 mmol, 1N, 1.9 mL | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-5-(4-((R)-3-amino-2-(4-methylphenylsulfonamido)-3-oxopropyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalene-2-carboxylic acid | NC([C@@H](CC=1N=NN(C1)[C@H]1C=2C=CC(=CC2CCC1)C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C23H25N5O5S
